US06500250B1
Colorless 1-methylpyrrolidine, 212 g (2.5 mol), was added dropwise to 144 g (2 mol) of trimethylaluminum at room temperature under nitrogen gas flow with stirring. After the addition of 1-methylpyrrolidine was completed, the resulting mixture was stirred for 6 hours at room temperature to complete the reaction. 1-Methylpyrrolidine trimethylaluminum was obtained after completion of the reaction and was dried under vacuum at about 45° C. to give 300 g of a colorless liquid. The dried colorless liquid was distilled under vacuum (10−2 torr) at 600° C., during which a colorless distillate was condensed inside a vessel cooled with dry ice. This first colorless distillate was purified according to the same procedure at 60° C. to give 267 g of the colorless and highly purified 1-methylpyrrolidine trimethylaluminum.

reactant | 1-methylpyrrolidine | CN1CCCC1 | C5H11N
reactant | trimethylaluminum | 2 mol, 144 g | C[Al](C)C
product | 1-Methylpyrrolidine trimethylaluminum | C[Al](C)C.CN1CCCC1 | InChI=1S/C5H11N.3CH3.Al/c1-6-4-2-3-5-6;;;;/h2-5H2,1H3;3*1H3;
